datasets/10k_Mayr_OG.csv
SMILES Labelled
CC(C)[C@@H]1CCC[NH:10]1.CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2>>CC(C)[C@@H]1CCC[NH+:10]1[CH:20]([C:31]1=[CH:32][C:33]2=[C:34](N(C)CC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CC2)[CH:45]=[CH:46]1 10=20
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.CC(C)(C)[N:62]1CC[N:72](C(C)(C)C)[P:11]1[H:10]>>C1=CC=C([C:22](=[CH:21][CH2:20][H:10])[O-:23])C=C1.CC(C)(C)[N:62]1CC[N:72](C(C)(C)C)[P+:11]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[C:13](C)=[CH:12][CH:11]=[CH2:10]>>CC1=CC=C([S:32]([N-:21][CH:20]([CH2:10][CH:11]=[CH:12][C+:13](C)C)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12,13=11,12;20,21=21"
C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.O=[N+]([O-])C1=CC=C([C:61]([O-:10])=[O:62])C=C1>>O=[N+]([O-])C1=CC=C([C:61]([O:10][CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC[C:33]4=[CH:32]2)CCC3)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[O:62])C=C1 10=20
"C[N:72](C)[C:61]([S-:10])=[S:62].N#C[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>C[N:72](C)[C:61]([S:10][CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]1)=[S:62] 10=20;20,21=21,22;22,23=23"
"CC(C)[O:72][C:61]([S-:10])=[S:62].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N3CCOCC3)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([S:10][C:61](=[S:62])[O:72]C(C)C)[C:21](C[N+]2=CC=C(N3CCOCC3)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"CN1CC[C:20](=[O:21])CC1.C[C:63]([NH:12][C:11](C1=CCCC2=CC=CC=C21)=[CH2:10])=[O:64]>>CN1CC[C:20]([CH2:10][C:11](C2=CCCC3=CC=CC=C32)=[NH+:12][C:63](C)=[O:64])([O-:21])CC1 10,11=10,20;12=11,12;20,21=21"
"CC1=CC=C([B-:11](C2=CC=C(C)O2)(C2=CC=C(C)O2)[C:10]2=CC=C(C)O2)O1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>CC1=CC=C([B:11](C2=CC=C(C)O2)C2=CC=C(C)O2)O1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2=CC=C(C)O2)[O:21]C)[CH:35]=[CH:36]1 10,11=10,20;20,21=21"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:61][C:11]([C:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:12] 10,11=10,20;12=11,12"
"C[N:220](C)[C:19]1=[CH:18][CH:17]=[C:16]([CH:15]=[C:14]2[CH:10]=[CH:11][CH:12]=[CH:13]2)[CH:67]=[CH:68]1.[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C[N+:220](C)=[C:19]1[CH:18]=[CH:17][C:16](=[CH:15][C:14]2=[CH:13][CH:12]=[CH:11][CH:10]2[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:67]=[CH:68]1 10,11=10,20;12,13=11,12;14,15=13,14;16,17=15,16;18,19=17,18;20,21=21,22;22,23=23;220=19,220"
"FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C=C[CH:20]([S:10][C:61]5=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]5)C1C2C43 10=20;20,21=21"
"C1C[N:12]([C:11](=[CH2:10])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)CCO1.CN1CC[C:20](=[O:21])CC1>>CN1CC[C:20]([CH2:10][C:11](=[N+:12]2CCOCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)([O-:21])CC1 10,11=10,20;12=11,12;20,21=21"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH:10](C)C2=CC=CC=C2)[O:12]1.O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1.C[CH:10](C1=CC=CC=C1)[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[N:10]1CCOCC1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2(C)CCOCC2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]1)[O-:12].N#C[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>CC[O:61][C:11]([C:10]([CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]1)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
